US03987128
1,4,7-Tris(trimethylsilyl)-1,4,7-triazacyclododecane was prepared from 1,4,7-triazacyclododecane trishydrochloride with six equivalents of n-butyllithium essentially by the procedure of Example 1 (A). In a 50 ml flask a solution of 0.675 g of the tris silyl compound (distilled bulb-to-bulb at 95°-125°/0.1 mm) in 2.5 ml of chlorobenzene was frozen, evacuated, and pressured with 40 ml of phosphorus oxyfluoride gas. The flask was sealed and the mixture heated overnight at 100°. Then the mixture was refluxed under a nitrogen atmosphere for 4 hours. A sample indicated (by nmr) that two-thirds of the silyl groups had reacted. Refluxing was continued for 5.8 hours under a nitrogen pressure of 960- 1040 mm of mercury. A sample at this time showed almost complete displacement of the silyl groups as fluorotrimethylsilane. The mixture remaining (about 80-85% of the original) was concentrated under vacuum and distilled bulb-to-bulb under vacuum (0.1 mm). The fraction collected at 80°-100° oven temperature consisted of solidified condensate in the mouth of the receiver, mp 78°-86.5°. This sample (~30 mg) was used for ir and mass spectroscopy which identify this material as 13-oxo-1,4,7-triaza-13-phosphatricyclo[5.5.1.04,13 ]-tridecane. It was recrystallized in part from cyclohexane giving needles, mp 86°-87.5°.

reactant | 1,4,7-triazacyclododecane trishydrochloride | Cl.Cl.Cl.N1CCNCCNCCCCC1
reactant | n-butyllithium | six equivalents | C(CCC)[Li]
reactant | fluorotrimethylsilane | F[Si](C)(C)C | C3H9FSi
solvent | chlorobenzene | 2.5 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1,4,7-Tris(trimethylsilyl)-1,4,7-triazacyclododecane | C[Si](N1CCN(CCN(CCCCC1)[Si](C)(C)C)[Si](C)(C)C)(C)C | C18H45N3Si3
